US08003783B2
(2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthren-9-yl)-methanol (CAB03058):
2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8diaza-pentaleno[2,1-a]phenanthrene-9-carboxylic acid ethyl ester (457 mg, 1.0 mmol, CAB03049) was added to a suspension of LiAlH4 (100 mg) in THF (20 mL). The mixture was stirred for 30 minutes at room temperature, then water (1 mL) was added (to destroy the excess of LiAlH4). Stirring was continued for 1 hour (light yellowgreen suspension), acetic acid (0.5 mL) was added, the inorganic solids were filtered of and washed carefully with THF (ca. 50 mL).The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The residue was crystallised from ethyl acetate/diethyl ether. Yield: 215 mg (52%) colorless crystals. 1H-NMR (CDCl3, 400 MHz), δ: 1.01 (s, 3H, —CH3), 1.40-2.46 (m, 10 H), 2.60 (dd, J=13.7, 6.3 Hz, 1H), 2.82-3.00 (m, 2H), 4.69 (s, 2H, —CH2OH), 5.04 (s, 2H, —CH2Ph), 6.28 (bs, 2H, —OH and NH), 6.73 (d, J=2.3 Hz, 1H), 6.80 (dd, J=8.6, 2.3 Hz, 1H), 7.21 (d, J=8.6 Hz, 1H), 7.30-7.45, (m, 5H). LRMS (FAB+): 91.1 (100), 415.3 (60, [M+H]+). HRMS (FAB+): 415.238434 C27H31N2O2 requires 415.238554

reactant | 2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8diaza-pentaleno[2,1-a]phenanthrene-9-carboxylic acid ethyl ester | 1.0 mmol, 457 mg | C(C)OC(=O)C1=C2CC3C(CCC4C=5C=CC(=CC5CCC34)OCC3=CC=CC=C3)(C2=NN1)C | C29H32N2O3
reactant | LiAlH4 | 100 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthren-9-yl)-methanol | C(C1=CC=CC=C1)OC=1C=CC=2C3CCC4(C(C3CCC2C1)CC1=C(NN=C14)CO)C | C27H30N2O2
